US07829665B2
2-tert-Butyl 3-methyl 6-hydroxy-3,4-dihydroisoquinoline-2,3(1H)-dicarboxylate (200 mg, 0.65 mmol), m-chloro-phenyl bromide (103 mg, 0.54 mmol), 2, 2, 6, 6-tetramethylheptane-3,5-dione (TMHD, 10 mg, 0.054 mmol), Cs2CO3 (326 mg, 1.00 mmol), and CuCl (27 mg, 0.27 mmol) were mixed together in NMP (1 mL) and heated to 120° C. for 6 h. The reaction was then diluted with MTBE and filtered over celite. The filtrate was washed with 1 N HCl, 1 N NaOH, and brine. The organic was dried over Na2SO4 and concentrated before loading on a Biotage silica column (12 m) and eluting with 10% Acetone/Hexanes to give 2-tert-butyl 3-methyl 6-(3-chlorophenoxy)-3,4-dihydroisoquinoline-2,3(1H)-dicarboxylate as a pale yellow oil (113 mg, 50%). This material was then taken up in 1 mL of a mixture of THF/H2O (3:1) and LiOH (70 mg, 1.62 mmol) was added. The reaction stirred overnight at rt, before it was concentrated and quenched with 1 N HCl. The product was then extracted with EtOAc (3×). The combined extracts were dried over Na2SO4 and concentrated to give a pale yellow foam (100 mg, 92%). MS m/e 402.9 (M−−H).

reactant | 2-tert-Butyl 3-methyl 6-hydroxy-3,4-dihydroisoquinoline-2,3(1H)-dicarboxylate | 0.65 mmol, 200 mg | OC=1C=C2CC(N(CC2=CC1)C(=O)OC(C)(C)C)C(=O)OC | C16H21NO5
reactant | m-chloro-phenyl bromide | 0.54 mmol, 103 mg | ClC=1C=C(C=CC1)Br | C6H4BrCl
reactant | 2, 2, 6, 6-tetramethylheptane-3,5-dione | 0.054 mmol, 10 mg | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | Cs2CO3 | 1.00 mmol, 326 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | MTBE | CC(C)(C)OC | C5H12O
catalyst | CuCl | 0.27 mmol, 27 mg | Cl[Cu]
product | 2-tert-butyl 3-methyl 6-(3-chlorophenoxy)-3,4-dihydroisoquinoline-2,3(1H)-dicarboxylate | 113 mg, 50% | ClC=1C=C(OC=2C=C3CC(N(CC3=CC2)C(=O)OC(C)(C)C)C(=O)OC)C=CC1 | C22H24ClNO5
